US04166178
In dimethylformamide (20 ml) is dissolved sodium 7β-(t-butoxycarbonyl)amino-3-hydroxymethyl-3-cephem-4-carboxylate (3.20 g), followed by the addition of N-carboethoxysaccharin (3.20 g) and triethylamine (2.0 ml). The solution is stirred for one hour at room temperature and, after the addition of triethylamine (2.0 ml), stirred further for one hour. The solution is poured into toluene (1 L) and the resultant precipitate is collected by filtration, washed with toluene and dried. The powder thus obtained is dissolved in water (30 ml). After the addition of ethyl acetate (200 ml), the solution is adjusted to pH 4.0 with diluted phosphoric acid. After separation, the ethyl acetate solution is washed with water, dried over anhydrous sodium sulfate and concentrated. To the concentrate (30 ml), ether (200 ml) is added under stirring and the resultant precipitate is filtered off. The filtrate is concentrated under reduced pressure and to the concentrate (30 ml) is added carbon tetrachloride (100 ml). The resultant precipitate is collected by filtration, washed with carbon tetrachloride and dried over phosphorus pentoxide. The procedure provides 7β-(t-butoxycarbonyl)amino-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid (2.50 g).

reactant | sodium 7β-(t-butoxycarbonyl)amino-3-hydroxymethyl-3-cephem-4-carboxylate | 3.20 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | N-carboethoxysaccharin | 3.20 g | C(=O)(OCC)N1S(=O)(=O)C2=CC=CC=C2C1=O | C10H9NO5S
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 7β-(t-butoxycarbonyl)amino-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid | 2.50 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)S(NC(=O)OCC)(=O)=O)=O)C(=O)O)C1=O | C23H27N3O11S2
